T1 (net138 net75 net75 0) pfet L=2.46E-6 W=1.17E-6
R2 ( net5 net93)  R=9.9E2
T3 ( net93 net93 net138 vdd!)  pfet  L=8.76E-6 W=6.48E-6
T4 ( net138 net8 vdd! vdd!)  pfet  L=8.76E-6 W=6.48E-6
T5 ( net8 net8 vdd! vdd!)  pfet  L=8.76E-6 W=6.48E-6
T6 ( net81 net93 net8 vdd!)  pfet  L=8.76E-6 W=6.48E-6
C7 (net19 net92) C=4.9E-12
C8 (net4 net106) C=7.7E-9
R9 ( net57 net4)  R=5.1E3
T10 ( net4 net63 vdd! vdd!)  pfet  L=2.44E-6 W=4.24E-6
T11 ( net67 net63 vdd! vdd!)  pfet  L=2.44E-6 W=4.24E-6
T12 ( net11 net4 net67 vdd!)  pfet  L=2.44E-6 W=4.24E-6
T13 (net13 net37 net37 0) nfet L=4.89E-6 W=3.10E-6
C14 (net105 net143) C=9.9E-8
C15 (net33 net43) C=0.9E-13
R16 (net70 net55) R=4.7E5
R17 (net95 net50) R=0.8E2
C18 (net56 net113) C=1.8E-6
T19 (net99 net129 net129 0) pfet L=7.75E-6 W=0.97E-6
T20 (net97 net13 net13 0) pfet L=1.60E-6 W=9.41E-6
C21 (net148 0) C=4.9E-9
R22 (net7 net29) R=2.9E1
T23 (net141 net108 net108 0) nfet L=8.90E-6 W=1.85E-6
T24 (net79 net2 net2 0) nfet L=7.90E-6 W=7.29E-6
R25 (net88 net97) R=9.3E6
R26 (net127 net132) R=8.5E0
T27 (net48 net2 net2 0) pfet L=0.72E-6 W=6.67E-6
R28 (net71 net80) R=9.8E6
T29 (net52 net127 net127 0) pfet L=8.79E-6 W=5.92E-6
T30 (net135 net59 net59 0) pfet L=7.50E-6 W=2.46E-6
T31 (vdd! net79 net79 0) nfet L=9.78E-6 W=7.03E-6
T32 (net101 net3 net3 0) pfet L=9.30E-6 W=3.87E-6
T33 (net24 net78 net78 0) nfet L=6.05E-6 W=4.40E-6
T34 (net130 net74 net74 0) nfet L=6.16E-6 W=0.27E-6
C35 (net100 net98) C=4.2E-14
T36 (net3 0 0 0) nfet L=7.41E-6 W=1.35E-6
T37 (net21 vdd! vdd! 0) pfet L=1.43E-6 W=0.99E-6
T38 (net95 net137 net137 0) nfet L=8.59E-6 W=6.86E-6
R39 (net54 net42) R=4.7E4
R40 (vdd! net128) R=4.2E3
T41 (net95 net47 net47 0) nfet L=5.44E-6 W=2.14E-6
R42 (net104 net114) R=6.0E5
T43 (net37 net44 net44 0) nfet L=4.00E-6 W=5.72E-6
C44 (net38 net73) C=2.5E-8
T45 (net107 net70 net70 0) pfet L=6.79E-6 W=1.65E-6
T46 (net73 net50 net50 0) pfet L=8.84E-6 W=6.92E-6
T47 (net42 net25 net25 0) nfet L=8.48E-6 W=1.24E-6
T48 (net48 net35 net35 0) nfet L=1.67E-6 W=8.94E-6
T49 (net49 net27 net27 0) pfet L=9.11E-6 W=6.11E-6
C50 (net37 vdd!) C=9.6E-14
T51 (net121 net14 net14 0) nfet L=4.73E-6 W=7.51E-6
R52 (net70 net147) R=1.7E0
T53 (net36 0 0 0) pfet L=4.60E-6 W=3.82E-6
C54 (net110 net32) C=0.6E-9
C55 (net141 net145) C=5.9E-9
T56 (net20 net95 net95 0) pfet L=3.50E-6 W=6.08E-6
C57 (net125 net20) C=7.6E-5
C58 (net21 net152) C=8.4E-7
R59 (net131 vdd!) R=6.5E6
T60 (net18 net114 net114 0) nfet L=0.36E-6 W=0.51E-6
T61 (net29 net119 net119 0) pfet L=0.66E-6 W=8.90E-6
T62 (net124 net107 net107 0) nfet L=2.47E-6 W=2.23E-6
T63 (net57 net30 net30 0) nfet L=4.23E-6 W=9.62E-6
R64 (net82 net81) R=0.4E5
T65 (net86 net22 net22 0) pfet L=6.77E-6 W=6.73E-6
C66 (net18 net53) C=4.0E-14
T67 (vdd! net140 net140 0) pfet L=0.26E-6 W=3.69E-6
T68 (vdd! net152 net152 0) nfet L=7.04E-6 W=6.16E-6
T69 (net15 net104 net104 0) pfet L=2.61E-6 W=8.86E-6
T70 (net145 net89 net89 0) nfet L=6.24E-6 W=6.20E-6
R71 (0 net81) R=7.4E1
C72 (net153 net34) C=5.5E-10
T73 (net73 net127 net127 0) pfet L=1.54E-6 W=7.89E-6
T74 (net58 vdd! vdd! 0) nfet L=0.46E-6 W=9.39E-6
T75 (net103 0 0 0) nfet L=7.89E-6 W=9.87E-6
R76 (net127 net101) R=2.4E0
R77 (net13 net61) R=4.3E6
R78 (net28 net79) R=3.0E3
R79 (net43 net144) R=9.6E3
T80 (net95 net94 net94 0) pfet L=7.24E-6 W=5.53E-6
C81 (net28 net145) C=8.6E-14
R82 (vdd! net1) R=9.3E1
C83 (net101 net106) C=2.7E-11
R84 (net9 net17) R=2.5E3
T85 (net22 vdd! vdd! 0) nfet L=5.17E-6 W=6.05E-6
C86 (net87 net149) C=1.0E-12
T87 (net35 net133 net133 0) pfet L=6.65E-6 W=4.59E-6
C88 (net62 net141) C=3.0E-5
C89 (vdd! net48) C=2.0E-7
T90 (net131 net85 net85 0) nfet L=5.16E-6 W=2.16E-6
R91 (net52 net56) R=8.7E2
T92 (net70 net147 net147 0) nfet L=1.62E-6 W=5.88E-6
T93 (net130 net61 net61 0) nfet L=7.80E-6 W=3.33E-6
C94 (net57 net118) C=7.9E-13
C95 (net143 net135) C=8.5E-10
R96 (vdd! net133) R=3.7E2
R97 (net111 net113) R=9.7E1
T98 (net123 net94 net94 0) nfet L=2.93E-6 W=4.97E-6
C99 (net1 net91) C=4.2E-13
T100 (net19 net61 net61 0) nfet L=6.15E-6 W=8.37E-6
R101 (net126 net65) R=3.9E5
C102 (net18 net115) C=2.9E-9
T103 (net5 net71 net71 0) nfet L=8.11E-6 W=0.65E-6
R104 (net147 net99) R=4.7E6
R105 (net48 net61) R=6.7E0
R106 (net65 net144) R=2.8E5
T107 (net73 net117 net117 0) pfet L=2.51E-6 W=4.12E-6
T108 (net144 net60 net60 0) pfet L=4.66E-6 W=5.29E-6
C109 (0 net14) C=9.4E-14
T110 (net56 net57 net57 0) nfet L=0.17E-6 W=1.78E-6
R111 (vdd! net73) R=2.5E5
T112 (net48 net78 net78 0) pfet L=1.39E-6 W=7.38E-6
R113 (net150 net65) R=7.1E4
T114 (net113 net15 net15 0) pfet L=7.43E-6 W=5.93E-6
C115 (net5 net107) C=2.2E-10
R116 (net3 net53) R=2.8E6
T117 (net36 net82 net82 0) pfet L=5.31E-6 W=9.29E-6
T118 (net13 net107 net107 0) pfet L=1.28E-6 W=6.29E-6
T119 (net83 net87 net87 0) pfet L=3.99E-6 W=3.10E-6
C120 (net68 net98) C=5.5E-12
T121 (net50 net111 net111 0) pfet L=7.65E-6 W=0.37E-6
T122 (net150 net97 net97 0) nfet L=2.58E-6 W=8.01E-6
R123 (net123 net72) R=7.3E5
C124 (net111 net87) C=9.9E-14
R125 (net56 net153) R=7.7E5
T126 (net85 net144 net144 0) nfet L=2.91E-6 W=7.24E-6
C127 (net36 net152) C=3.2E-10
T128 (net22 net45 net45 0) pfet L=2.85E-6 W=6.32E-6
C129 (net35 net64) C=3.4E-7
T130 (0 net91 net91 0) pfet L=0.69E-6 W=9.45E-6
T131 (net137 0 0 0) nfet L=8.35E-6 W=0.73E-6
C132 (net30 net13) C=8.0E-5
T133 (0 net38 net38 0) pfet L=3.70E-6 W=4.49E-6
T134 (net64 net44 net44 0) pfet L=7.21E-6 W=8.43E-6
T135 (net119 net147 net147 0) pfet L=9.69E-6 W=2.42E-6
C136 (net52 net84) C=2.7E-14
R137 (net122 net150) R=2.6E5
T138 (vdd! net61 net61 0) pfet L=4.71E-6 W=4.29E-6
T139 (vdd! net43 net43 0) nfet L=7.85E-6 W=3.71E-6
T140 (net125 net110 net110 0) pfet L=6.98E-6 W=9.68E-6
R141 (net64 net70) R=7.5E2
C142 (net145 net56) C=4.9E-6
R143 (net21 net79) R=9.5E1
C144 (net113 net72) C=2.2E-10
C145 (net83 net21) C=0.1E-11
T146 (net39 vdd! vdd! 0) nfet L=4.59E-6 W=5.01E-6
R147 (net95 net70) R=2.5E3
T148 (net152 net81 net81 0) nfet L=5.10E-6 W=1.07E-6
T149 (net150 net141 net141 0) nfet L=5.91E-6 W=5.04E-6
T150 (net100 net50 net50 0) nfet L=0.57E-6 W=7.99E-6
R151 (net60 net90) R=2.2E5
T152 (net81 0 0 0) pfet L=6.69E-6 W=9.73E-6
R153 (0 net114) R=0.3E0
T154 (net120 net103 net103 0) nfet L=2.58E-6 W=9.39E-6
R155 (net85 net51) R=9.6E6
R156 (net101 net121) R=2.6E4
R157 (net96 net102) R=0.8E6
C158 (net34 net137) C=2.9E-10
R159 (vdd! net70) R=1.3E3
R160 (net55 net44) R=8.8E5
R161 (net126 net3) R=0.4E4
C162 (0 net26) C=6.1E-7
T163 (net36 net69 net69 0) pfet L=0.90E-6 W=0.56E-6
R164 (net48 net50) R=9.8E0
T165 (net109 net57 net57 0) nfet L=0.16E-6 W=0.88E-6
T166 (net15 net98 net98 0) pfet L=7.34E-6 W=2.72E-6
T167 (net28 net96 net96 0) pfet L=9.15E-6 W=4.15E-6
T168 (net39 net116 net116 0) pfet L=7.19E-6 W=0.78E-6
C169 (net96 net150) C=9.9E-6
C170 (net126 0) C=1.9E-8
C171 (net85 net129) C=0.6E-5
T172 (net64 net84 net84 0) pfet L=4.18E-6 W=5.74E-6
T173 (net121 net141 net141 0) nfet L=1.86E-6 W=2.51E-6
R174 (net57 net98) R=0.3E4
C175 (0 net139) C=1.6E-10
R176 (net70 net43) R=1.0E6
T177 (net43 net94 net94 0) nfet L=4.65E-6 W=6.28E-6
T178 (net136 0 0 0) nfet L=8.17E-6 W=9.81E-6
R179 (vdd! net65) R=9.4E6
T180 (net30 net136 net136 0) nfet L=0.12E-6 W=4.55E-6
T181 (net24 net145 net145 0) nfet L=2.37E-6 W=3.33E-6
T182 (net35 net137 net137 0) nfet L=2.50E-6 W=9.12E-6
C183 (net99 net103) C=7.4E-14
C184 (net46 net38) C=1.5E-10
T185 (net87 net121 net121 0) nfet L=5.45E-6 W=3.81E-6
T186 (net106 net131 net131 0) nfet L=1.48E-6 W=2.43E-6
T187 (net95 net70 net70 0) nfet L=1.38E-6 W=6.45E-6
C188 (0 net48) C=6.7E-11
C189 (net71 net46) C=8.1E-11
T190 (net37 net149 net149 0) pfet L=8.29E-6 W=0.66E-6
T191 (net54 net136 net136 0) nfet L=1.26E-6 W=0.29E-6
T192 (net103 net92 net92 0) nfet L=8.18E-6 W=5.78E-6
T193 (net95 net90 net90 0) pfet L=8.04E-6 W=9.91E-6
T194 (net13 net18 net18 0) nfet L=0.76E-6 W=4.00E-6
T195 (net2 net125 net125 0) nfet L=3.56E-6 W=6.04E-6
T196 (net78 net131 net131 0) pfet L=5.63E-6 W=1.03E-6
T197 (net18 net28 net28 0) pfet L=8.65E-6 W=5.90E-6
C198 (net39 net54) C=7.7E-11
T199 (net19 net30 net30 0) nfet L=0.97E-6 W=9.99E-6
R200 (net136 net6) R=1.4E5
R201 (net31 net153) R=6.9E5
T202 (0 net35 net35 0) pfet L=4.56E-6 W=2.27E-6
C203 (net31 net56) C=8.8E-14
T204 (net132 net104 net104 0) nfet L=4.01E-6 W=6.23E-6
T205 (net91 net60 net60 0) nfet L=7.37E-6 W=8.94E-6
T206 (net84 net75 net75 0) pfet L=4.87E-6 W=8.02E-6
R207 (net95 net98) R=4.3E3
T208 (net45 net97 net97 0) pfet L=0.97E-6 W=9.34E-6
C209 (net133 net116) C=4.0E-9
T210 (net117 net46 net46 0) pfet L=6.25E-6 W=0.11E-6
R211 (net109 net58) R=8.2E0
T212 (net39 net101 net101 0) nfet L=0.23E-6 W=8.04E-6
T213 (net100 net122 net122 0) pfet L=6.37E-6 W=1.33E-6
C214 (net43 net47) C=2.7E-5
T215 (net38 net129 net129 0) nfet L=0.83E-6 W=9.76E-6
T216 (net94 net143 net143 0) nfet L=6.72E-6 W=8.39E-6
C217 (net92 0) C=7.8E-11
C218 (net83 net88) C=9.3E-7
R219 (net140 net11) R=2.2E1
R220 (vdd! net140) R=0.6E3
T221 (vdd! net139 net139 0) pfet L=0.85E-6 W=9.86E-6
T222 (vdd! net137 net137 0) nfet L=7.53E-6 W=2.55E-6
T223 (net79 net146 net146 0) nfet L=4.37E-6 W=3.11E-6
C224 (net16 net54) C=9.4E-10
T225 (net48 net30 net30 0) pfet L=1.08E-6 W=5.46E-6
T226 (net130 net20 net20 0) nfet L=5.79E-6 W=4.83E-6
T227 (net127 net117 net117 0) nfet L=0.75E-6 W=8.64E-6
R228 (net19 net62) R=8.6E6
C229 (net50 net122) C=9.6E-8
T230 (net150 net131 net131 0) pfet L=9.97E-6 W=5.76E-6
T231 (net97 net2 net2 0) nfet L=7.78E-6 W=4.55E-6
C232 (net98 net60) C=0.9E-14
T233 (net80 net140 net140 0) pfet L=8.84E-6 W=5.53E-6
T234 (net33 net50 net50 0) pfet L=8.18E-6 W=9.40E-6
R235 (net76 net27) R=7.2E1
T236 (net25 net71 net71 0) pfet L=0.61E-6 W=8.46E-6
T237 (net134 net14 net14 0) nfet L=4.94E-6 W=4.01E-6
C238 (net26 net102) C=9.6E-10
C239 (net101 net108) C=6.7E-6
C240 (net133 net61) C=8.9E-8
T241 (net128 net109 net109 0) pfet L=2.93E-6 W=1.78E-6
R242 (net105 net122) R=9.9E1
R243 (net127 net107) R=3.0E3
T244 (net22 net122 net122 0) pfet L=7.15E-6 W=7.27E-6
R245 (0 net109) R=8.5E4
R246 (net147 net108) R=0.4E3
T247 (net90 net150 net150 0) pfet L=0.13E-6 W=2.59E-6
C248 (net106 net140) C=8.3E-8
T249 (net51 net98 net98 0) pfet L=6.96E-6 W=7.50E-6
R250 (net10 net31) R=6.1E6
R251 (net55 net80) R=0.8E3
T252 (net24 net49 net49 0) nfet L=2.46E-6 W=8.11E-6
R253 (net56 net59) R=3.0E4
C254 (net50 net17) C=9.4E-7
T255 (net118 net148 net148 0) pfet L=2.55E-6 W=6.93E-6
R256 (net27 net106) R=0.4E5
C257 (net91 net132) C=9.6E-13
C258 (net22 net49) C=2.2E-11
R259 (net113 net70) R=7.2E3
T260 (net79 net149 net149 0) pfet L=0.57E-6 W=7.87E-6
C261 (net81 vdd!) C=8.1E-13
T262 (net96 net112 net112 0) pfet L=3.32E-6 W=2.56E-6
T263 (net94 net1 net1 0) nfet L=9.47E-6 W=3.22E-6
T264 (net86 net61 net61 0) pfet L=7.73E-6 W=0.16E-6
R265 (net111 vdd!) R=8.6E0
R266 (net23 vdd!) R=3.6E4
T267 (net32 net16 net16 0) nfet L=4.29E-6 W=7.55E-6
C268 (net27 net71) C=5.5E-13
T269 (net88 net146 net146 0) pfet L=3.08E-6 W=7.82E-6
T270 (0 net131 net131 0) pfet L=8.16E-6 W=2.71E-6
C271 (net151 net14) C=3.0E-12
T272 (net79 net132 net132 0) nfet L=2.48E-6 W=5.80E-6
T273 (net31 net148 net148 0) pfet L=4.97E-6 W=4.28E-6
T274 (net95 net132 net132 0) nfet L=0.88E-6 W=1.09E-6
T275 (net131 net33 net33 0) pfet L=6.33E-6 W=7.31E-6
T276 (net46 net36 net36 0) pfet L=8.64E-6 W=5.14E-6
C277 (net133 net28) C=0.2E-13
R278 (net102 net32) R=7.7E2
R279 (net71 net137) R=8.9E3
C280 (net58 net105) C=3.1E-11
C281 (net54 net109) C=7.1E-11
R282 (net78 net104) R=4.1E5
T283 (net23 net74 net74 0) pfet L=1.40E-6 W=4.61E-6
T284 (net80 net9 net9 0) pfet L=4.49E-6 W=1.48E-6
R285 (net17 net126) R=0.2E0
C286 (net60 net37) C=0.6E-11
C287 (net108 net131) C=9.7E-6
C288 (net115 net51) C=5.1E-12
R289 (net118 net78) R=5.0E5
C290 (net60 net38) C=7.5E-14
R291 (net83 0) R=4.4E2
C292 (0 net56) C=4.8E-12
R293 (net62 net108) R=2.2E0
T294 (net51 net47 net47 0) nfet L=5.52E-6 W=1.61E-6
C295 (net126 net26) C=0.7E-14
T296 (net49 net147 net147 0) pfet L=3.57E-6 W=3.30E-6
T297 (net96 net5 net5 0) pfet L=6.21E-6 W=8.98E-6
C298 (net84 net3) C=9.8E-9
R299 (net111 net99) R=8.0E5
R300 (0 net135) R=9.2E6
R301 (net82 vdd!) R=1.1E1
T302 (net128 vdd! vdd! 0) pfet L=4.14E-6 W=9.91E-6
C303 (net23 net26) C=4.3E-10
C304 (net137 net99) C=5.3E-14
T305 (net141 net42 net42 0) pfet L=2.76E-6 W=4.78E-6
R306 (net59 net112) R=7.0E2
T307 (net55 0 0 0) nfet L=8.24E-6 W=9.81E-6
C308 (net142 net44) C=0.9E-13
T309 (net115 net56 net56 0) nfet L=0.27E-6 W=2.65E-6
T310 (net130 net104 net104 0) nfet L=5.11E-6 W=4.86E-6
T311 (net111 vdd! vdd! 0) nfet L=2.35E-6 W=2.54E-6
T312 (net64 net34 net34 0) pfet L=7.35E-6 W=0.48E-6
R313 (net94 net10) R=2.6E3
C314 (net21 net143) C=4.6E-13
R315 (net68 net128) R=2.7E4
C316 (net80 net64) C=7.9E-6
T317 (net71 net139 net139 0) nfet L=8.85E-6 W=2.58E-6
R318 (net103 0) R=1.6E3
T319 (net62 net114 net114 0) pfet L=0.71E-6 W=2.57E-6
R320 (net135 net80) R=5.8E2
C321 (0 net140) C=5.7E-9
T322 (net112 net5 net5 0) nfet L=3.01E-6 W=4.39E-6
T323 (net39 net143 net143 0) pfet L=5.89E-6 W=4.30E-6
T324 (vdd! net50 net50 0) nfet L=8.86E-6 W=4.25E-6
R325 (net146 net3) R=8.8E0
R326 (vdd! net125) R=1.3E1
T327 (vdd! net83 net83 0) pfet L=4.95E-6 W=7.52E-6
T328 (net133 net73 net73 0) pfet L=7.38E-6 W=8.60E-6
R329 (net88 net136) R=1.1E0
T330 (net153 net104 net104 0) pfet L=8.10E-6 W=8.21E-6
T331 (net16 net92 net92 0) nfet L=8.87E-6 W=2.62E-6
R332 (net47 vdd!) R=9.3E3
T333 (net123 net121 net121 0) pfet L=6.86E-6 W=3.04E-6
T334 (net21 net94 net94 0) pfet L=7.01E-6 W=3.93E-6
T335 (net33 net104 net104 0) pfet L=7.47E-6 W=9.70E-6
T336 (net12 net140 net140 0) pfet L=8.30E-6 W=6.61E-6
T337 (net51 net11 net11 0) nfet L=7.91E-6 W=9.69E-6
R338 (net2 net13) R=2.9E6
C339 (net126 net84) C=8.5E-10
R340 (net35 net11) R=2.8E6
R341 (net100 net72) R=8.7E0
T342 (net148 net128 net128 0) nfet L=7.01E-6 W=9.52E-6
C343 (net5 net85) C=8.3E-12
R344 (net61 net46) R=5.2E3
T345 (net128 net47 net47 0) nfet L=0.75E-6 W=9.52E-6
T346 (net120 net101 net101 0) pfet L=9.42E-6 W=0.95E-6
T347 (net10 net126 net126 0) pfet L=2.81E-6 W=2.03E-6
R348 (net71 0) R=1.6E2
R349 (net34 net119) R=9.3E5
C350 (net134 net30) C=3.6E-6
C351 (net36 net31) C=8.4E-8
T352 (net147 net87 net87 0) pfet L=0.30E-6 W=6.98E-6
T353 (net110 net76 net76 0) nfet L=7.71E-6 W=3.80E-6
R354 (net10 net125) R=3.2E0
C355 (net36 net52) C=1.4E-11
R356 (net13 net127) R=9.2E2
T357 (net13 0 0 0) pfet L=5.61E-6 W=9.17E-6
T358 (vdd! 0 0 0) nfet L=2.49E-6 W=9.63E-6
T359 (0 net37 net37 0) pfet L=0.86E-6 W=6.86E-6
T360 (net48 net146 net146 0) nfet L=9.17E-6 W=3.54E-6
T361 (net136 net37 net37 0) nfet L=6.74E-6 W=8.26E-6
C362 (net102 vdd!) C=6.2E-9
T363 (vdd! vdd! vdd! 0) nfet L=0.93E-6 W=7.34E-6
R364 (net97 net75) R=8.0E0
T365 (net66 net1 net1 0) nfet L=9.14E-6 W=8.37E-6
R366 (net84 net125) R=9.2E3
T367 (net14 net101 net101 0) nfet L=3.60E-6 W=6.31E-6
R368 (net130 net107) R=5.1E5
T369 (vdd! net56 net56 0) pfet L=1.19E-6 W=7.18E-6
T370 (net71 net151 net151 0) pfet L=0.29E-6 W=1.38E-6
C371 (net84 net98) C=6.5E-10
T372 (net101 net55 net55 0) nfet L=3.03E-6 W=1.44E-6
C373 (net41 net83) C=9.8E-13
T374 (net110 net48 net48 0) nfet L=4.96E-6 W=4.53E-6
C375 (net90 net56) C=9.5E-9
T376 (net20 net81 net81 0) pfet L=8.98E-6 W=0.62E-6
T377 (net27 vdd! vdd! 0) pfet L=4.13E-6 W=7.94E-6
C378 (net91 net94) C=2.9E-8
R379 (net42 net36) R=6.0E1
C380 (net83 net13) C=3.2E-7
T381 (net116 net106 net106 0) nfet L=3.85E-6 W=2.17E-6
R382 (net133 net74) R=0.8E6
C383 (net2 net94) C=7.0E-12

